US08563617B2
Benzyl [1-(4-chlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate
tert-Butyl [1-(4-chlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (2 g, 6.95 mmol, prepared analogously to tert-butyl [1-(3,4-dichlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate, cf. example 34.2 were suspended in dimethylformamide (40 mL). Triethylamine (0.969 mL, 6.95 mmol) and benzyl carbonochloridate (1.186 g, 6.95 mmol) were added. The reaction mixture was stirred at room temperature over night. The solvent was evaporated in vacuo. To the crude product ethyl acetate and water were added. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). Yield: 393 mg (0.931 mmol, 13.4%, colorless foam).

reactant | tert-Butyl [1-(4-chlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)O)NC(OC(C)(C)C)=O)C=C1 | C22H26ClNO3
reactant | tert-butyl [1-(3,4-dichlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)O)NC(OC(C)(C)C)=O)C=CC1Cl | C22H25Cl2NO3
reactant | Triethylamine | 6.95 mmol, 0.969 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl carbonochloridate | 6.95 mmol, 1.186 g | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | Benzyl [1-(4-chlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)O)NC(OCC2=CC=CC=C2)=O)C=C1 | C25H24ClNO3
